US05258529
45.23 Grams of 2,3-dichloro-1-propene were added dropwise to a mixture of 20.00 g of methyl 2-methyl-1-propenyl ketone, 60 g of toluene, 60 g of water and 26.65 g of zinc powder at 35° C., and after the addition, the resultant mixture was maintained at the same temperature for 5 hours. After the reaction was completed zinc-derived insolubles were filtered off, and the filtrate was separated. The organic phase was washed with 7% sodium carbonate aqueous solution and dried over magnesium sulfate. The desiccant was filtered off and the toluene was distilled off under reduced pressure. The resultant oily substance was purified by silica gel column chromatography to give 31.11 g of 2-chloro-4,6-dimethyl-1,5-heptadien-4-ol; nD25 =1.474, FI-MS m/e 174(M), 176(M+2).

reactant | 2,3-dichloro-1-propene | ClC(=C)CCl | C3H4Cl2
reactant | methyl 2-methyl-1-propenyl ketone | 20.00 g | CC(=CC(=O)C)C | C6H10O
reactant | toluene | 60 g | C1(=CC=CC=C1)C | C7H8
catalyst | zinc | 26.65 g | [Zn] | Zn
solvent | water | 60 g | O | H2O
product | 2-chloro-4,6-dimethyl-1,5-heptadien-4-ol | 31.11 g | ClC(=C)CC(C=C(C)C)(O)C | C9H15ClO
